US09376443B2
2-tert-Butyldimethylsilyloxymethyl-6-(1-hydroxy-1-methylethyl)pyridine
Imidazole (2.27 g, 33.3 mmol) was added to a stirred solution of 2-hydroxymethyl-6-(1-hydroxy-1-methylethyl)pyridine (5.30 g, 31.7 mmol) and tert-butyldimethylsilylchloride (5.02 g, 33.3 mmol) in DMF (70 mL) and the mixture was stirred for 16 h at room temperature. The mixture was poured onto water, extracted with EtOAc, the organic portion was separated, dried (MgSO4), filtered and evaporated to give the title compound (8.19 g, 92%) as a colourless oil; NMR δH (400 MHz, CDCl3) 7.74-7.70 (1H, m), 7.40-7.38 (1H, m), 7.20-7.18 (1H, m), 5.34 (1H, s), 4.83 (2H, s), 1.52 (6H, s), 0.97 (9H, s), 0.13 (6H, s); (M+H)+ 282.

reactant | Imidazole | 33.3 mmol, 2.27 g | N1C=NC=C1 | C3H4N2
reactant | 2-hydroxymethyl-6-(1-hydroxy-1-methylethyl)pyridine | 31.7 mmol, 5.30 g | OCC1=NC(=CC=C1)C(C)(C)O | C9H13NO2
reactant | tert-butyldimethylsilylchloride | 33.3 mmol, 5.02 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 2-tert-Butyldimethylsilyloxymethyl-6-(1-hydroxy-1-methylethyl)pyridine | 8.19 g, 92% | [Si](C)(C)(C(C)(C)C)OCC1=NC(=CC=C1)C(C)(C)O | C15H27NO2Si
